US08071776B2
3-Amino-5-chloro-6-[(4-fluoro-benzylcarbamoyl)-methoxy]-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide
To a solution of (3-amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid (0.300 g, 0.843 mmol) in a 1:1 mixture of THF:DMF (2.0 ml each) are added 1-hydroxybenzotriazole hydrate (0.148 g, 1.096 mmol), N,N-diisopropylethylamine (0.163 g, 1.265 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.242 g, 1.265 mmol), and 4-fluorobenzylamine (0.317 g, 2.529 mmol). The resulting solution is stirred at room temperature for 16 hours. The reaction is quenched by the addition of water (25 ml). A yellow precipitate is formed. The mixture is cooled to 0° C. and stirred for 10 minutes, then filtered. The collected solid is slurried in 10:1 hexane:EtOAc and stirred for 10 minutes. The solid is collected by filtration and dried in the vacuum oven at 50° C. for 1 hour. This affords the title compound as a pale yellow solid (0.143 g, 37%). Mass (m/z): 463.1 (M++1), 461.1 (M+−1).

reactant | (3-amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid | 0.843 mmol, 0.300 g | NC1=C(SC2=NC(=C(C(=C21)C)Cl)OCC(=O)O)C(NC2CC2)=O | C14H14ClN3O4S
reactant | 1-hydroxybenzotriazole hydrate | 1.096 mmol, 0.148 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 1.265 mmol, 0.163 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.265 mmol, 0.242 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-fluorobenzylamine | 2.529 mmol, 0.317 g | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 3-Amino-5-chloro-6-[(4-fluoro-benzylcarbamoyl)-methoxy]-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 0.143 g, 37% | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)OCC(NCC2=CC=C(C=C2)F)=O)S1)N | C21H20ClFN4O3S
